US06683184B2
1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
Phenyl N-(2-methoxyquinoxalin-3-yl)carbamate and 1-(3,5-dimethoxy-phenyl)piperazine were reacted by the same way with the example 36 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=CC=C2N=C1NC(OC1=CC=CC=C1)=O | C16H13N3O3
reactant | 1-(3,5-dimethoxy-phenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 81.2% | COC1=NC2=CC=CC=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C22H25N5O4
